US07271262B2
320A. 4-{4-Amino-5-[3-(3,5-dichloro-benzenesulfonylamino)-benzoyl]-pyrrolo[2,3-d]pyrimidin-7-yl}-piperidine-1-carboxylic acid tert-butyl ester
3,5-Dichlorophenyl sulfonylchloride (2.8 g, 11.5 mmol) was added to a solution of 4-[4-amino-5-(3-amino-benzoyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-piperidine-1-carboxylic acid tert-butyl ester (2.5 g, 5.7 mmol) in pyridine (55 mL). The reaction mixture was stirred at 40 C for 12 h in a sealed tube, quenched with H2O (45 mL), and extracted with EtOAc (3×50 mL). The combined organic extracts were washed with CuSO4 (3×150 mL), H2O (200 mL), and brine (200 mL) and dried (MgSO4), filtered, and concentrated in vacuo. The crude reaction mixture was filtered to obtain the titled compound as an off-white solid (1.5 g, 41%). MS: 646.5 (MH+); HPLC Rf: 6.95 min. (HPLC method 4); HPLC purity: 100%.

reactant | 3,5-Dichlorophenyl sulfonylchloride | 11.5 mmol, 2.8 g | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | 4-[4-amino-5-(3-amino-benzoyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-piperidine-1-carboxylic acid tert-butyl ester | 5.7 mmol, 2.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C=C(C2=C1N=CN=C2N)C(C2=CC(=CC=C2)N)=O | C23H28N6O3
solvent | pyridine | 55 mL | N1=CC=CC=C1 | C5H5N
product | 4-{4-Amino-5-[3-(3,5-dichloro-benzenesulfonylamino)-benzoyl]-pyrrolo[2,3-d]pyrimidin-7-yl}-piperidine-1-carboxylic acid tert-butyl ester | 1.5 g, 41% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C=C(C2=C1N=CN=C2N)C(C2=CC(=CC=C2)NS(=O)(=O)C2=CC(=CC(=C2)Cl)Cl)=O | C29H30Cl2N6O5S
